US05773449
7-Methoxyquinoline-4(1H)-thione (Compound 1)
4-Chloro-7-methoxyquinoline(965 mg, 5 mmol) and 70% sodium hydrosulfide (800 mg, 10 mmol) were added to ethanol (100 ml) and stirred at room temperature for 6 days. Ethanol was removed under reduced pressure from the reaction mixture. The residue was chromatographed by silica gel column chromatography, eluted with mixed solution of methylene chloride with methanol (16 : 1) for collection of yellow bands. The solvent was removed and the residue was added with a small amount of methylene chloride. The resulting precipitates were collected by filtration to obtain 590 mg (62%) of the titled compound. This compound was completely the same as the compound 1 obtained in the Example 1.

reactant | 4-Chloro-7-methoxyquinoline | 5 mmol, 965 mg | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | sodium hydrosulfide | 10 mmol, 800 mg | [SH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-Methoxyquinoline-4(1H)-thione | 590 mg, 62% | COC1=CC=C2C(C=CNC2=C1)=S | C10H9NOS
